US06337331B1
A solution of potassium hexamethyldisilazide in toluene (0.5 M, 4 ml, 2.0 mmol) was added at room temperature under nitrogen to a stirred solution of 3-(2-fluorophenyl)-1,2,3-triazolo[1,5-α]quinazolin-5-one (0.56 g, 2.0 mmol) in dry DMF (10 ml). The dark brown solution was stirred for 10 min followed by addition of a solution of 2-methyl-3-chloromethyl-1,2,4-triazole (0.35 g, 2.65 mmol) in dry DMF (3 ml). The red solution was stirred at room temperature for 3 days, then poured into water (120 ml) and the yellow precipitate collected. The material was dissolved in dichloromethane (50 ml), dried (Na2SO4), filtered and concentrated. Flash column chromatography on silica gel, eluting with 5% methanol-dichloromethane, partly removed unreacted starting material. The crude product was hot-filtered and recrystallised from ethyl acetate to give 3-(2-fluorophenyl)-5-(2-methyl-2H-1,2,4-triazol-3-ylmethoxy)-1,2,3-triazolo[1,5-α]quinazoline (0.354 g, 47%) as a very pale yellow solid, m.p. 195-197° C. Found: C, 60.14; H, 3.61; N, 25.86. C19H14FN7O.0.25(H2O) requires C, 60.08; H, 3.85; N, 25.81%. δH (360 MHz; DMSO) 3.94 (3H, s), 5.82 (2H, s), 7.37-7.43 (2H, m), 7.46-7.58 (1H, m), 7.82 (1H, dd, J=7 and 7), 7.97 (1H, s), 8.01 (1H, ddd, J=7, 7 and 1), 8.16 (1H, ddd, J=8, 8 and 1), 8.29 (1H, d, J=8) and 8.61 (1H, d, J=8); m/z (ES+) 376 (M+H+).

reactant | potassium hexamethyldisilazide | C[Si]([N-][Si](C)(C)C)(C)C.[K+]
reactant | toluene | 2.0 mmol, 0.5 M, 4 ml | C1(=CC=CC=C1)C | C7H8
reactant | 3-(2-fluorophenyl)-1,2,3-triazolo[1,5-α]quinazolin-5-one | 2.0 mmol, 0.56 g | FC1=C(C=CC=C1)C1=NNN2C1=NC(C1=CC=CC=C21)=O | C15H9FN4O
reactant | 2-methyl-3-chloromethyl-1,2,4-triazole | 2.65 mmol, 0.35 g | CN1N=CN=C1CCl | C4H6ClN3
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
solvent | water | 120 ml | O | H2O
product | 3-(2-fluorophenyl)-5-(2-methyl-2H-1,2,4-triazol-3-ylmethoxy)-1,2,3-triazolo[1,5-α]quinazoline | 0.354 g, 47% | FC1=C(C=CC=C1)C=1N=NN2C1N=C(C1=CC=CC=C21)OCC=2N(N=CN2)C | C19H14FN7O
